US07402595B2
6-bromo-2-(3-bromo-4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixture of 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (290 mg), aluminum chloride (82 mg) and dichloromethane (5.7 ml) was added bromine (39 μl) at 0° C. with stirring, and the mixture was stirred for 1 hr. After the completion of the reaction, the reaction mixture was washed with water, dried and concentrated. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=4/1-1/1) to give the title compound (180 mg) as colorless crystals.

reactant | 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 290 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)O | C24H18BrNO4
reactant | aluminum chloride | 82 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 39 μl | BrBr | Br2
solvent | dichloromethane | 5.7 ml | ClCCl | CH2Cl2
product | 6-bromo-2-(3-bromo-4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 180 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC(=C(C=C1)O)Br | C24H17Br2NO4
